US04710507
Trans-N-(4-bromo-2-methylphenyl)-3-ethoxypropenamide (2.0 g) was added portionwise with stirring to 98% sulphuric acid (15 cm3) at room temperature. After 16 hours the solution was poured onto ice (100 cm3) and the resulting precipitate was filtered off and dried (1.5 g). Recrystallisation from ethyl acetate-methanol afforded 6-bromo-8-methyl-2-(1H)-quinolone, m.p. 272°-274°.

reactant | Trans-N-(4-bromo-2-methylphenyl)-3-ethoxypropenamide | 2.0 g | BrC1=CC(=C(C=C1)NC(\C=C\OCC)=O)C | C12H14BrNO2
reactant | sulphuric acid | 15 cm3 | S(O)(O)(=O)=O | H2O4S
product | 6-bromo-8-methyl-2-(1H)-quinolone | BrC=1C=C2C=CC(NC2=C(C1)C)=O | C10H8BrNO
